US04120690
Preparation of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-propionamidothiazole
A mixture of 4.8 g (0.016 mole) of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole dissolved 20 ml of propionic anhydride was heated for 1 hour at 90°. The reaction solution was cooled and the precipitate was collected. The crude solid was recrystallized from chloroform-hexane. There was obtained 1.9 g of product, m.p. 210°-12°. N.M.R. (CDCl3) ∂ 1.1-1.4 (CH3, triplet), 1.4 [C(CH3)3 ], 2.3-2.7 (CH2, quartet), 3.9 (CH2, singlet), 6.8 (hetero-aromatic).

reactant | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole | 0.016 mole, 4.8 g | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)N | C11H15N5OS2
solvent | propionic anhydride | 20 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-propionamidothiazole | 1.9 g | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)NC(CC)=O | C14H19N5O2S2
